US07384968B2
A mixture of 2-(S)-amino-pentanoic acid (5-isopropyl-thiazol-2-yl)-amide (350 mg, 1.4 mmol) and 2-tetralone (318 mg, 2.2 mmol)in 20 mL of methylene chloride and 5 drops of acetic acid was treated with sodium triacetoxyborohydride (462 mg, 2.2 mmol) and stirred at room temperature overnight. The mixture was concentrated and eluted through SPEC SCX cartridge and concentrated to dryness. The residue was purified by silica gel column chromatography to give 2-(S)-(1,2,3,4-Tetrahydro-naphthalen-2-ylamino)-pentanoic acid (5-isopropyl-thiazol-2-yl)-amide as a solid, LC-MS, RT=1.9 min, M+1=372.

reactant | 2-(S)-amino-pentanoic acid (5-isopropyl-thiazol-2-yl)-amide | 1.4 mmol, 350 mg | C(C)(C)C1=CN=C(S1)NC([C@H](CCC)N)=O | C11H19N3OS
reactant | 2-tetralone | 2.2 mmol, 318 mg | C1C(CCC2=CC=CC=C12)=O | C10H10O
reactant | sodium triacetoxyborohydride | 2.2 mmol, 462 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 2-(S)-(1,2,3,4-Tetrahydro-naphthalen-2-ylamino)-pentanoic acid (5-isopropyl-thiazol-2-yl)-amide | C(C)(C)C1=CN=C(S1)NC([C@H](CCC)NC1CC2=CC=CC=C2CC1)=O | C21H29N3OS
